US04748239
(B) (cis)-3-Methoxy-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride
A solution of (cis)-3-(hydroxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride (0.81 g, 1.92 mmol) in 21 ml of dimethylformamide was treated with sodium hydride (0.23 g, 5.76 mmol of a 60% mineral oil dispersion) at room temperature under argon. Stirring was continued for 30 minutes. The temperature was lowered to 0° C., iodomethane was added (0.13 ml, 2.11 mmol) and the reaction was continued for 11/2 hours at 0° C. The reaction was quenched at 0° C. with water. Dimethylformamide and water were removed in vacuo. Hexane and 1M hydrochloric acid were added, the aqueous layer was washed twice with hexane, made basic with saturated aqueous potassium carbonate solution and washed three times with ethyl acetate. The ethyl acetate layers were washed with brine, dried over sodium sulfate, and evaporated in vacuo to yield 0.95 g of an oil. This material was dissolved in a minimal amount of chloroform, treated with saturated hydrogen chloride-ether solution, evaporated in vacuo and triturated with ether/ethyl acetate/methanol (80:15:5) to yield 0.67 g of a white solid, melting point 148° C. (dec).

reactant | (cis)-3-(hydroxy)-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | 1.92 mmol, 0.81 g | Cl.O[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)CCN(C)C)=O
reactant | sodium hydride | [H-].[Na+]
reactant | iodomethane | IC | CH3I
solvent | dimethylformamide | 21 ml | CN(C=O)C | C3H7NO
product | (cis)-3-Methoxy-1-[2-(dimethylamino)ethyl]-1,3,4,5-tetrahydro-4-(4-methoxyphenyl)-7-(trifluoromethyl)-2H-1-benzazepin-2-one, monohydrochloride | 0.95 g | Cl.CO[C@@H]1C(N(C2=C(C[C@@H]1C1=CC=C(C=C1)OC)C=C(C=C2)C(F)(F)F)CCN(C)C)=O | InChI=1S/C23H27F3N2O3.ClH/c1-27(2)11-12-28-20-10-7-17(23(24,25)26)13-16(20)14-19(21(31-4)22(28)29)15-5-8-18(30-3)9-6-15;/h5-10,13,19,21H,11-12,14H2,1-4H3;1H/t19-,21+;/m1./s1
